US06184242B2
4-(4-Chlorocarbonylbenzyl)-nitrobenzene was dissolved in dichloromethane (40 mL) and a solution of pyrrolidine (64 mg, 1 eq) in pyridine (0.2 mL) was added. The mixture was stirred for 2 hours at room temperature, washed with dilute potassium hydroxide, and solvents evaporated to yield a yellow oil. The residue was chromatographed on silica gel, eluting with dichloromethane/methanol, to give 4-(4-pyrrolidin-1-ylcarbonylbenzyl)-nitrobenzene (299 mg, 99%).

reactant | 4-(4-Chlorocarbonylbenzyl)-nitrobenzene | ClC(=O)C1=CC=C(CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H10ClNO3
reactant | pyrrolidine | 64 mg, 1 eq | N1CCCC1 | C4H9N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
product | 4-(4-pyrrolidin-1-ylcarbonylbenzyl)-nitrobenzene | 299 mg, 99% | N1(CCCC1)C(=O)C1=CC=C(CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C18H18N2O3
